US04405517
1.3 g (4.8 mmol) of (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid are heated to 240° until the gas evolution ceases. After recrysallization from ethyl acetate, there is obtained (S)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of melting point 195°-197°.

reactant | (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 4.8 mmol, 1.3 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)O)CC2 | C14H11N3O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C13H11N3O
